US03963725
To a solution of 1-(4-methoxyphenoxy)methyl-6,7- dimethoxy-1,2,3,4-tetrahydroisoquinoline (100 mg) in anhydrous methylene chloride (5 ml) was added a solution of boron tribromide (300 mg) in anhydrous methylene chloride (0.6 ml) at -51°C under cooling and stirring, and the mixture was stirred for 19 hours at -51° to -20°C. After the reaction, methylene chloride was distilled off under reduced pressure. To the residue were added methanol (5 ml) and water (0.5 ml) and the mixture was warmed, and then the solvent was distilled off under reduced pressure. The colourless powdery residue was dissolved in acetone, and then to the solution was added ether, and the mixture was allowed to stand. The precipitated crystals were collected by filtration to give colourless powder of 1-(4-hydroxyphenoxy)methyl-6, 7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 1-(4-methoxyphenoxy)methyl-6,7- dimethoxy-1,2,3,4-tetrahydroisoquinoline | 100 mg | COC1=CC=C(OCC2NCCC3=CC(=C(C=C23)OC)OC)C=C1 | C19H23NO4
reactant | boron tribromide | 300 mg | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.6 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxyphenoxy)methyl-6, 7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.OC1=CC=C(OCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H17NO4.BrH/c18-11-1-3-12(4-2-11)21-9-14-13-8-16(20)15(19)7-10(13)5-6-17-14;/h1-4,7-8,14,17-20H,5-6,9H2;1H
